US04243672
Methyl iodide (42.60 g.) in dry ether (150 ml.) was added to a stirred mixture of magnesium turnings (7.30 g.) in dry ether (50 ml.) at such a rate that gentle reflux was maintained. After completion of the addition the mixture was stirred at room temperature for 30 minutes and then pyrrole (20.13 g., 0.44 mole) was added at such a rate that gentle reflux was maintained. After completion of the addition the mixture was heated under reflux with stirring for 30 minutes and then cooled to 0° C. A solution of cyclohexane carboxylic acid chloride (44.0 g., 0.30 mole) in dry ether (100 ml.) was added dropwise with stirring and the resulting mixture was heated under reflux with stirring for 30 minutes. The mixture was cooled and a solution of ammonium chloride (20 g.) in water (200 ml.) was added with stirring. The organic layer was separated, washed once with 0.5 N sodium hydroxide solution (50 ml.), twice with water (100 ml.) and dried over sodium sulphate. The ether was evaporated to give a viscous oil which was distilled to give cyclohexyl pyrrol-2-yl ketone (31.5 g.), B.P. 162°-165° at 15 mm., M.P. 83°-84°.

reactant | Methyl iodide | 42.60 g | CI | CH3I
reactant | magnesium | 7.30 g | [Mg] | Mg
reactant | pyrrole | 0.44 mole, 20.13 g | N1C=CC=C1 | C4H5N
reactant | cyclohexane carboxylic acid chloride | 0.30 mole, 44.0 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | cyclohexyl pyrrol-2-yl ketone | 31.5 g | N1C(=CC=C1)C(=O)C1CCCCC1 | C11H15NO
